US08138345B2
Preparation of Methyl [3-(2-Oxopropyl)phenyl]acetate
A stirred mixture of methyl (3-bromophenyl)acetate (19.7 g, 86.0 mmol), tributyltin methoxide (37.1 mL, 129 mmol), isopropenyl acetate (14.2 mL, 129 mmol), palladium acetate (961 mg, 4.28 mmol), and tri-o-tolylphosphine (2.63 g, 8.64 mmol) in toluene (70 mL) was heated at 100° C. for 6 h. Aqueous potassium fluoride solution (4 M, 120 mL) and EtOAc (200 mL) were added and the resulting mixture was stirred overnight. The mixture was then filtered through Celite and the layers were separated. The organic layer was washed with water and then concentrated under reduced pressure. The residue was purified by silica gel flash chromatography (0-8% MeOH in DCM) to give the title compound (11.8 g, 66% yield).

reactant | methyl (3-bromophenyl)acetate | 86.0 mmol, 19.7 g | BrC=1C=C(C=CC1)CC(=O)OC | C9H9BrO2
reactant | tributyltin methoxide | 129 mmol, 37.1 mL | C[O-].C(CCC)[Sn+](CCCC)CCCC
reactant | isopropenyl acetate | 129 mmol, 14.2 mL | C(C)(=O)OC(=C)C | C5H8O2
reactant | tri-o-tolylphosphine | 8.64 mmol, 2.63 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | potassium fluoride | 4 M, 120 mL | [F-].[K+]
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 4.28 mmol, 961 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | Methyl [3-(2-Oxopropyl)phenyl]acetate | 11.8 g, 66% yield | O=C(CC=1C=C(C=CC1)CC(=O)OC)C | C12H14O3
